US08420642B2
(3-Cyclopentyloxy-5-phenoxy-pyridine-2-yl)-thiourea (0.29 mmol) is dissolved in DMF (1 ml) and chloro-acetaldehyde (1.1 eq., 55% in water) is added and stirred 3 h at 100° C. After cooling to room temperature the suspension is pored into ice-water and extracted with methyl-ter.-butyl ether. The combined organic phases are washed with brine and dried over MgSO4. The solvent is removed in vacuo. (3-Cyclopentyloxy-5-phenoxy-pyridine-2-yl)-thiazole-2-yl-amine (“A21”) is obtained after reversed phase chromatography (water/acetonitrile+0.1% TFA) as yellow solid in a yield of 47%; 138.2-139.7°; HPLC (method C): 2.00 min; LC-MS (method A): 2.00 min, 354.1 (M+H+);

reactant | (3-Cyclopentyloxy-5-phenoxy-pyridine-2-yl)-thiourea | 0.29 mmol | C1(CCCC1)OC=1C(=NC=C(C1)OC1=CC=CC=C1)NC(=S)N | C17H19N3O2S
reactant | chloro-acetaldehyde | 1.1 eq. | ClCC=O | C2H3ClO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (3-Cyclopentyloxy-5-phenoxy-pyridine-2-yl)-thiazole-2-yl-amine | yield of 47% | C1(CCCC1)OC=1C(=NC=C(C1)OC1=CC=CC=C1)NC=1SC=CN1 | C19H19N3O2S
